US06680326B2
a) Preparation of 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-chlorophenyl)-amide
In a similar manner to Example 1a, 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-chloro-phenyl)-amide was obtained starting from 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester and 3-chloro-phenylamine. The desired product was obtained as a brownish orange powder. ESI−MS: m/z 301 (MH+); 1H-NMR (DMSO-d6): δ6.96-7.00 (1H, m), 7.27-7.29 (2H, m), 7.35 (1H, dd, J=1.3 Hz, 4.6 Hz), 7.98-7.99 (1H, m), 8.53 (1H, d, J=1.0 Hz), 8.74 (1H, d, J=4.6 Hz), 10.92 (1H, brs).

reactant | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C=2C=CN=CC2C1=O)=O | C11H9NO4
reactant | 3-chloro-phenylamine | ClC=1C=C(C=CC1)N | C6H6ClN
product | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-chlorophenyl)-amide | ClC=1C=C(C=CC1)NC(=O)C1C(C=2C=CN=CC2C1=O)=O | C15H9ClN2O3
